US05219862
6-cyano-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester
3.54 g of 6-cyano-8beta-ergoline-carboxylic acid methyl ester (12 mmol), 9.46 g of morpholine hydrochloride (77 mmol) and 1.77 g of paraformaldehyde (59 mmol) are heated in 90 ml of dimethylformamide for 30 minutes at 100° C. After cooling, the mixture is poured on ice, made alkaline with sodium carbonate solution and shaken out five times with toluene. The organic phases are washed with water, dried with sodium sulfate and concentrated by evaporation. The precipitated crystals are suctioned off, yield 4.71 g (quantitative). The substance is chromatographed on silica gel with dichloromethane/methanol (98:1 and 9:1), 3.05 g (64% of theory) is isolated. The substance can be crystallized from dichloromethane/diisopropylether, the pure substance is obtained in 50% yield. [α]D =+33.4° (0.5% in chloroform).

reactant | 6-cyano-8beta-ergoline-carboxylic acid methyl ester | 12 mmol, 3.54 g | COC(=O)[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C#N | C17H17N3O2
reactant | morpholine hydrochloride | 77 mmol, 9.46 g | Cl.N1CCOCC1
reactant | paraformaldehyde | 59 mmol, 1.77 g | C=O | CH2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-cyano-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester | 50% yield | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)CN3CCOCC3)C#N | C22H26N4O3
